US07317027B2
(iv) 2-(1-Isopropyl-piperidin-4-ylcarbamoyl)-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid methyl ester
To a solution of 9.5 g 1H-Pyrrolo[2,3-b]pyridine-2,5-dicarboxylic acid 5-methyl ester in 120 mL DMF and 23.9 mL NEt3, 9.2 g 1-Isopropyl-piperidin-4-ylamine hydrochloride and 11 g BOP-Cl were added at RT and the mixture was stirred for 3 h. After addition of 20 mL of water the reaction mixture was extracted with ethyl acetate (3×150 ml). The combined organic layers were washed with brine (1×50 ml) and then dried over MgSO4. After filtration the solvent was removed under reduced pressure and the residue was purified by chromatography on silica gel eluting with EtOAc/MeOH 9:7->EtOAc/MeOH/NH3(aq.) 6:4:0.04. The fractions containing the product were evaporated and codestilled with toluene. Yield: 7.2 g.

reactant | 1H-Pyrrolo[2,3-b]pyridine-2,5-dicarboxylic acid 5-methyl ester | 9.5 g | COC(=O)C=1C=C2C(=NC1)NC(=C2)C(=O)O | C10H8N2O4
reactant | 1-Isopropyl-piperidin-4-ylamine hydrochloride | 9.2 g | Cl.C(C)(C)N1CCC(CC1)N
reactant | BOP-Cl | 11 g | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | water | 20 mL | O | H2O
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
solvent | NEt3 | 23.9 mL | CCN(CC)CC | C6H15N
product | 2-(1-Isopropyl-piperidin-4-ylcarbamoyl)-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid methyl ester | COC(=O)C=1C=C2C(=NC1)NC(=C2)C(NC2CCN(CC2)C(C)C)=O | C18H24N4O3
